US06172057B2
2-(4-Methoxy-benzenesulfonyl)-2-oct-2-ynyl-dec-4-ynoic acid hydroxyamide was prepared according to the method as outlined in example 1. Starting from 2-(4-methoxy-benzenesulfonyl)-2-oct-2-ynyl-dec-4-ynoic acid (0.36 g, 0.81 mmol) and hydroxylamine hydrochloride (0.70 g, 10 mmol), 0.25 g of the product isolated. Yield 62%; white solid; mp 83-84° C.; 462.0 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ 0.82-0.90 (m, 6H), 1.15-1.45 (m, 12H), 1.90-2.05 (m, 4H), 2.86 (brd, J=17.0 Hz, 2H), 3.00 (brd, J=17.0 Hz, 2H), 3.87 (s, 3H), 7.15 (d, J=10.0 Hz, 1H), 7.71 (d, J=10.0 Hz, 1H), 9.20 (brs, 1H), 10.90 (brs, 1H); IR (KBr, cm−1): 3344 s, 3208 m, 2930 m, 2870 m, 1677 s, 1592 s;

reactant | 2-(4-methoxy-benzenesulfonyl)-2-oct-2-ynyl-dec-4-ynoic acid | 0.81 mmol, 0.36 g | COC1=CC=C(C=C1)S(=O)(=O)C(C(=O)O)(CC#CCCCCC)CC#CCCCCC | C25H34O5S
reactant | hydroxylamine hydrochloride | 10 mmol, 0.70 g | Cl.NO
reactant | KBr | [K+].[Br-]
product | 2-(4-Methoxy-benzenesulfonyl)-2-oct-2-ynyl-dec-4-ynoic acid hydroxyamide | Yield 62% | ONC(C(CC#CCCCCC)(CC#CCCCCC)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C25H35NO5S
